US07517910B2
3-(4-[(4-{[5-(benzyloxy)-1H-indol-1-yl]methyl}benzyl)oxy]phenyl}propanoic acid
To a solution of 5-(benzyloxy)-1H-indole (0.19 g, 0.86 mmol) in N,N-dimethylformamide (10 mL) was added sodium hydride (60% in oil, 35 mg, 0.86 mmol) with stirring at 0° C., and the mixture was stirred at the same temperature for 10 min. Methyl 3-(4-{[4-(chloromethyl)benzyl]oxy}phenyl)propanoate (0.25 g, 0.78 mmol) was added to the obtained mixture and the mixture was stirred at room temperature for 12 hr. The reaction mixture was diluted with ethyl acetate, and the mixture washed with 5% aqueous potassium hydrogensulfate solution and saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=10/1-hexane/ethyl acetate=3/1) to give an oil. Then, a mixture of the obtained oil, 1 N aqueous sodium hydroxide solution (1.6 mL), methanol (3.0 mL) and tetrahydrofuran (6.0 mL) was stirred at room temperature for 2 hr. The reaction mixture was diluted with ethyl acetate, and the mixture was washed with 5% aqueous potassium hydrogensulfate solution, water and saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=10/1-hexane/ethyl acetate=1/2) to give the title compound (200 mg, yield 49%) as beige crystals. MS (APCI−): 490 (M−H).

reactant | 5-(benzyloxy)-1H-indole | 0.86 mmol, 0.19 g | C(C1=CC=CC=C1)OC=1C=C2C=CNC2=CC1 | C15H13NO
reactant | sodium hydride | 0.86 mmol, 35 mg | [H-].[Na+]
reactant | Methyl 3-(4-{[4-(chloromethyl)benzyl]oxy}phenyl)propanoate | 0.78 mmol, 0.25 g | ClCC1=CC=C(COC2=CC=C(C=C2)CCC(=O)OC)C=C1 | C18H19ClO3
reactant | sodium hydroxide | 1 N, 1.6 mL | [OH-].[Na+]
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 6.0 mL | O1CCCC1 | C4H8O
solvent | methanol | 3.0 mL | CO | CH4O
product | 3-(4-[(4-{[5-(benzyloxy)-1H-indol-1-yl]methyl}benzyl)oxy]phenyl}propanoic acid | 200 mg, yield 49% | C(C1=CC=CC=C1)OC=1C=C2C=CN(C2=CC1)CC1=CC=C(COC2=CC=C(C=C2)CCC(=O)O)C=C1 | C32H29NO4
